US07148311B2
Synthesis of 2-methoxy-6-(4′-methoxyphenyl)naphthalene (DMPN)
In an 100 mL three-necked RB flask equipped with a magnetic bar, a condenser and a nitrogen gas inlet, 2-bromo-6-methoxynaphthalene (7.32 g, 30 mmol), 4-methoxybenzene boronic acid (4.86 g, 32 mmol) and 1-propanol (50 mL) were mixed and stirred at room temperature for approx. 30 min. Palladium acetate (0.02 g, 0.09 mmol), triphenylphosphine (0.07 g, 0.27 mmol), Na2CO3 solution (2M, 18 mL, 36 mmol) and water (10 mL) were added and the mixture was refluxed for 1.5 h. When the mixture was still hot, 30 mL of water was added and the mixture was stirred and cooled to room temperature. The resultant crystals were filtered, washed with water and recrystallized from acetone to give the DMPN title compound as colorless flakes (6.86 g, 86%). mp 194–196° C. (DSC 196° C). 1H NMR (500 MHz, CDCl3) δ 3.88 (s, 3H), 3.95 (s, 3H), 7–8 (m, 10 H). IR (KBr) ν (cm−): 3058 (Ph-H, w), 1028 (OCH3, s). Anal. Calcd for C18H16O2: C, 81.79; H, 6.10. Found: C, 81.80; H, 6.25. GC-MS (m/z) 264 (M+).

reactant | 2-bromo-6-methoxynaphthalene | 30 mmol, 7.32 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | 4-methoxybenzene boronic acid | 32 mmol, 4.86 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | triphenylphosphine | 0.27 mmol, 0.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 36 mmol, 2M, 18 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Palladium acetate | 0.09 mmol, 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 30 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | 1-propanol | 50 mL | C(CC)O | C3H8O
product | 2-methoxy-6-(4′-methoxyphenyl)naphthalene | COC1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC | C18H16O2
